M1 VOP VGATE VDD VDD pmos
M2 VON VGATE2 VDD VDD pmos
M3 VOP VIN_D N_CS GND nmos
M4 VON VIN_DBAR N_CS GND nmos
M5 N_CS VBIAS GND GND nmos
R1 VON VOCM
R2 VOP VOCM
S1 (VIN VGATE) switch_ideal
S2 (VGATE2 VIN) switch_ideal
S3 (VDD VGATE) switch_ideal
S4 (VDD VGATE2) switch_ideal
