M1 Vop Vgate VDD VDD pmos
M2 Von VGATE2 VDD VDD pmos
M3 Vop D N_CS GND nmos
M4 Von D_bar N_CS GND nmos
M5 N_CS Vbias GND GND nmos
R1 Von Vocm
R2 Vop Vocm
S1 (V_ON Vgate) switch_ideal
S2 (VGATE2 V_ON) switch_ideal
S3 (VDD Vgate) switch_ideal
S4 (VDD VGATE2) switch_ideal
